2191-02-22 09:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo man who was at [**Hospital1 **] [**Location (un) 1415**] the last week of Decemeber for a
   severe R sided pneumonia.  He was discharged to rehab.  Sent to ED
   today for increasing lethargy and O2 sat of 92% on 2L at rehab.  Sat
   noted in ED to be 80% on RA up to 98% on NRB.  Sent to [**Hospital Unit Name 44**] for further
   management.
   24 Hour Events:
   Rrecevied D50 for low BG in ED yest pm. Also  received vanc/levo/ctx in
   ED. Lethargic o/n so ABG 7.43/ 42/ 73 (? supp O2).
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Avandia (Oral) (Rosiglitazone Maleate)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   Unknown;
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   MVI, losartan, lopressor, Plavix, Amiodarone, ASA, Protonix, coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-2-22**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.6
C (96.1
   HR: 73 (60 - 73) bpm
   BP: 145/57(79) {88/36(53) - 145/57(79)} mmHg
   RR: 28 (14 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                  1,100 mL
   PO:
                  100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,000 mL
   Urine:
   1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.43/42/73.[**Numeric Identifier 607**]/22/2
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g, hs distant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L base, R side 1/3 up)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   550 K/uL
   65 mg/dL
   1.6 mg/dL
   22 mEq/L
   4.2 mEq/L
   19 mg/dL
   103 mEq/L
   136 mEq/L
   30.2 %
   9.8 K/uL
        [image002.jpg]
                             [**2191-2-22**]  03:01 AM
                             [**2191-2-22**]  03:08 AM
   WBC
   9.8
   Hct
   30.2
   Plt
   550
   Cr
   1.6
   TCO2
   29
   Glucose
   65
   Other labs: PT / PTT / INR:23.1/30.8/2.2, Lactic Acid:0.7 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging: Chest CT (OSH)- RLL consolidation w/ poss abscess? vs
   parapneumonic effusion
   CXR- diffuse R-sided infiltrate
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)- persistent infxn may
   be related to abscess, post-obstructive compenent or parapneumonic
   effusion
   -repeat CT chest to eval; may need prolonged course of ABX in the
   setting of any of the above
   CAD/ ICM- stable, poss component of fluid overload
   -diurese based on CT chest, could also check BNP
   AFIB- rate-controlled; INR therapeutic
   CHRONIC KIDNEY DISEASE- at baseline
   DM- controlled
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2191-2-22**] 01:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2191-02-23 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2191-2-22**] 11:00 AM
   - CT chest read as Interval worsening of the multifocal pneumonia
   including right upper and left lower lobe compared to Neeedham films 2
   weeks ago
   - BNP elevated at 4700
   - Yesterday PM pt desaturated to mid 80s, increased crackles noted pt
   given IV 40mg Furosemide and titrated up to 60% FiO2. Pt put out approx
   140cc urine to Furosemide IV.
   - this morning, patient again desated to 80
s transiently, now on NRB
   sating 97%, comfortable
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Avandia (Oral) (Rosiglitazone Maleate)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   Unknown;
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-2-22**] 08:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-2-23**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 75 (58 - 80) bpm
   BP: 124/60(64) {71/26(44) - 145/60(81)} mmHg
   RR: 19 (16 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,580 mL
                  PO:
                                                                    580 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                    485 mL
   Urine:
                                                                  2,220 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -640 mL
                                                                   -485 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: irregularly irregular, unable to asses JVP 2/2 body
   habitus
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: crackles at righ base-mid lung fields, diffuse
   wheezes bilaterally
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: trace [**Location (un) **]
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   self, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   577 K/uL
   10.6 g/dL
   157 mg/dL
   1.8 mg/dL
   24 mEq/L
   4.6 mEq/L
   22 mg/dL
   103 mEq/L
   136 mEq/L
   31.9 %
   9.6 K/uL
        [image002.jpg]
                             [**2191-2-22**]  03:01 AM
                             [**2191-2-22**]  03:08 AM
                             [**2191-2-23**]  04:27 AM
   WBC
   9.8
   9.6
   Hct
   30.2
   31.9
   Plt
   550
   577
   Cr
   1.6
   1.8
   TCO2
   29
   Glucose
   65
   157
   Other labs: PT / PTT / INR:23.1/30.8/2.2, Lactic Acid:0.7 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   83 year-old male with MMP including afib on coumadin, CAD,
   cardiomyopathy s/p ICD/pacer, T2DM, HTN, hyperlipidemia, and CKD who
   presents to the ED from rehab with weakness and hypoxia.
   # Hypoxia:  Has increasing O2 requirement this morning, now on 60%
   FiO2, desated to 80%.  Yesterday felt to eb fulid overloaded and put
   out well to iv lasix though overall only negative 600cc in 24 hours.
   Does not appear gorssly fluid overloaded and suspect that hypoxia is
   primarily due to destruction of lung parenchyma [**3-14**] his significant
   pneumonia.  However, would still likely benefit from further diuresis,
   particularly given elevated BNP of 4700 has some element of heart
   failure.  Creatinine bumped yesterday to diuresis to 1.8, baseline ins
   1.9.
   - lasix 40mg iv with goal negative 1.5 L today.  Additional lasix this
   evening if not at goal
   - patient currently full code, will need to discuss intubation with
   patient and his HCP
   # Multifocal PNA:  Ct scan [**Last Name (un) 1387**] worsening of lung process compared to
   the one 2 weeks ago.  Unclear if patient has truly failed PNA treatment
   or if there is another process occurring
 possiblye lung parenchyema
   destruction as a sequalae of his pneumonia.  No culture data available
   .  WBC has normalized at 9.8 today. Other etiologies include BOOP or
   other post-infectious inflammatory process - has peripheral
   eosinophila.  Has hilar nodules on CXR which are likely reactive.
   - no abx for now, got vanc, CTZ, and levo in ED, s/p 10 day course of
   vanc and zosyn,  if spikes or becomes hypotensive, cover broadly with
   vanc and cefipime
   - continue respiratory support
   - at this point, would need intubation for bronch which would help
   diagnosis lung process
 will discuss intuabation with patient and
   family as above
   - all cultures pending/NGTD
   # Weakness/Lethargy:   Unclear [**Name2 (NI) 1925**], likley  related to recent
   infectious process, nothing focal on exam
   - work up as above
   # Hypoglycemia:  Resovled. Had low fs at 44 in ED here, got 1 amp D50.
   Likely [**3-14**] to poor po intake and continued home insulin dosing
   - follow fingersticks
   - continue home insulin, ensure good po intake
   - SSI
   # Afib on coumadin: rate controlled currently, INR therapeutic 2.2
   - continue coumadin
   # CAD/cardiomyopathy:  Continue home regimen
   # T2DM:  Insulin as above
   # CKD, Stage III: Cr 1.8, baseline is 1.9
   - trend
   # FEN: Replete lytes PRN, cardiac/diabetic diet
   # Access: PIV, left PICC
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:  SSI
   Lines:
   22 Gauge - [**2191-2-22**] 11:34 AM
   Prophylaxis:
   DVT: therapeutic on coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  With patient and family
   Code status: FULL
 will address with patient and family
   Disposition: ICU

2191-02-23 12:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PICC placed yest. Incr O2 req'ts overnight and today. Pt feels unwell
   in general but denies sob. Cough nonproductive, No fever.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Avandia (Oral) (Rosiglitazone Maleate)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   Unknown;
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-2-22**] 08:44 PM
   Other medications:
   coumadin, MVI, losartan, plavix, ASA, amiodarone, protonix, colace,
   RISS, Imdur, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-2-23**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 80 (58 - 80) bpm
   BP: 112/43(59) {96/26(44) - 141/60(81)} mmHg
   RR: 21 (10 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,580 mL
                                                                    240 mL
   PO:
                                                                    580 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                    605 mL
   Urine:
                                                                  2,220 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -640 mL
                                                                   -365 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 93%
   ABG: ///24/
   PaO2 / FiO2: FiO2 95% HFM
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R crackles)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   577 K/uL
   157 mg/dL
   1.8 mg/dL
   24 mEq/L
   4.6 mEq/L
   22 mg/dL
   103 mEq/L
   136 mEq/L
   31.9 %
   9.6 K/uL
        [image002.jpg]
                             [**2191-2-22**]  03:01 AM
                             [**2191-2-22**]  03:08 AM
                             [**2191-2-23**]  04:27 AM
   WBC
   9.8
   9.6
   Hct
   30.2
   31.9
   Plt
   550
   577
   Cr
   1.6
   1.8
   TCO2
   29
   Glucose
   65
   157
   Other labs: PT / PTT / INR:23.1/30.8/2.2, Lactic Acid:0.7 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: BNP- 4700
   Imaging: CT Chest- interval worsening of consolidation on R side
   CXR- R-sided consolidation
   Microbiology: Blood, urine- pending
   Influenza DFA- neg
   Assessment and Plan
   HYPOXEMIC RESPIRATORY DISTRESS- DDx includes post-pneumonic lung
   necrosis +/- pulm edema; repeat chest CT w/ dense multifocal
   consolidation vs necrosis?
   -right now no clinical evidence of active infxn (no leukocytosis, no
   fever, no sputum production)
   -low threshold to start broad coverage if any change in clinical status
   -cont to diurese to goal neg -1000/day
   -need to clarify code status with patient and pt's son
   CAD/ ICM- stable, poss component of fluid overload as above
   -diuresis as above
   AFIB- rate-controlled; INR therapeutic
   CHRONIC KIDNEY DISEASE- at baseline
   DM- controlled
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   22 Gauge - [**2191-2-22**] 11:34 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Spoke with family and patient about
   intubation should circumstances worsen. Still thinking if they would
   like to forego intubation. Wil re-discuss tomorrow
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2191-02-24 05:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient was given 40 mg of IV lasix in the am, but only put out about
   350 cc to it.  Was given 80 mg IV lasix x 2 later in the day/night.
   Was *** L negative.
   - Code status was addressed with him while his family were in the room,
   but he is not sure what he wants to choose.
   - a TTE showed mild symmetric LVH and a moderately dilated LV cavity.
   No masses or thrombi are seen in the left ventricle. LVEF= 35-40 %with
   inferior and infero-lateral akinesis.
   - He began sating better and was weaned down to 3 L NC
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Avandia (Oral) (Rosiglitazone Maleate)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   Unknown;
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-2-23**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-2-24**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 79 (63 - 87) bpm
   BP: 120/51(69) {96/21(37) - 140/59(76)} mmHg
   RR: 17 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                    840 mL
                                                                    240 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    450 mL
   Urine:
                                                                  2,050 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,210 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: irregularly irregular, unable to asses JVP 2/2 body
   habitus
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: crackles at right base-mid lung fields, scattered
   wheeze
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: trace [**Location (un) **]
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   self, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   624 K/uL
   10.7 g/dL
   138 mg/dL
   2.0 mg/dL
   28 mEq/L
   4.0 mEq/L
   27 mg/dL
   100 mEq/L
   138 mEq/L
   31.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2191-2-22**]  03:01 AM
                             [**2191-2-22**]  03:08 AM
                             [**2191-2-23**]  04:27 AM
                             [**2191-2-24**]  04:17 AM
   WBC
   9.8
   9.6
   10.0
   Hct
   30.2
   31.9
   31.4
   Plt
   550
   577
   624
   Cr
   1.6
   1.8
   2.0
   TCO2
   29
   Glucose
   65
   157
   138
   Other labs: PT / PTT / INR:23.1/30.8/2.2, Lactic Acid:0.7 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   83 year-old male with MMP including afib on coumadin, CAD,
   cardiomyopathy s/p ICD/pacer, T2DM, HTN, hyperlipidemia, and CKD who
   presents to the ED from rehab with weakness and hypoxia.
   # Hypoxia:  Improving, now on 2L nc.  Yesterday, had increasing O2
   requirement and was increased to  60% FiO2, desated to 80%.  Felt to be
   fulid overloaded and put out well to iv lasix though overall only
   negative 600cc in 24 hours.  Did not appear gorssly fluid overloaded
   and suspect that hypoxia is primarily due to destruction of lung
   parenchyma [**3-14**] his significant pneumonia.  However, BNP of 4700 and
   likely has some element of heart failure.  Received a total of 200ic
   lasix yesterday and was -1.2L over 24 hours.
   - no further diuresis as has decreased O2 requirement and Cr bumped to
   2.0
   - patient currently full code, will need to discuss intubation with
   patient and his HCP
   # Multifocal PNA:  Ct scan showed worsening of lung process compared to
   the one 2 weeks ago.  Unclear if patient has truly failed PNA treatment
   or if there is another process occurring
 possiblye lung parenchyema
   destruction as a sequalae of his pneumonia.  No culture data available
   .  WBC has normalized at 9.8 today. Other etiologies include BOOP or
   other post-infectious inflammatory process - has peripheral
   eosinophila.  Has hilar nodules on CXR which are likely reactive.
   - no abx for now (got vanc, CTZ, and levo in ED, s/p 10 day course of
   vanc and zosyn,  if spikes or becomes hypotensive, cover broadly with
   vanc and cefipime)
   - f/u cx, blood cx NGTD, urine cx negative, c. diff negative x2
   - continue respiratory support
   - at this point, would need intubation for bronch which would help
   diagnosis lung process
 will discuss intuabation with patient and
   family as above
   # Weakness/Lethargy:   Unclear [**Name2 (NI) 1925**], likley  related to recent
   infectious process, nothing focal on exam
   - work up as above
   # Hypoglycemia:  Resovled. Had low fs at 44 in ED here, got 1 amp D50.
   Likely [**3-14**] to poor po intake and continued home insulin dosing
   - follow fingersticks
   - continue home insulin, ensure good po intake
   - SSI
   # Afib on coumadin: rate controlled currently, INR therapeutic 2.2
   - continue coumadin
   # CAD/cardiomyopathy:  Continue home regimen
   # T2DM:  Insulin as above
   # CKD, Stage III: Cr 2.0 this morning, likely [**3-14**] lasix, baseline is
   1.9
   - trend
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  SSI
   Lines:
   22 Gauge - [**2191-2-22**] 11:34 AM
   Prophylaxis:
   DVT:  On coumadin, therapeutic
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL for now, will discuss furhter with family/patient
   Disposition: ICU for now

2191-02-24 10:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No events.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Avandia (Oral) (Rosiglitazone Maleate)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   Unknown;
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-2-23**] 10:00 PM
   Other medications:
   coumadin, MVI, metoprolol, losartan, [**Last Name (LF) 1495**], [**First Name3 (LF) 369**], amiodarone, Protonix,
   Colace, Imdur, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-2-24**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 75 (63 - 87) bpm
   BP: 107/60(68) {96/21(37) - 140/60(76)} mmHg
   RR: 30 (16 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                    840 mL
                                                                    480 mL
   PO:
                                                                    840 mL
                                                                    480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    450 mL
   Urine:
                                                                  2,050 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,210 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R side > L base)
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   624 K/uL
   138 mg/dL
   2.0 mg/dL
   28 mEq/L
   4.0 mEq/L
   27 mg/dL
   100 mEq/L
   138 mEq/L
   31.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2191-2-22**]  03:01 AM
                             [**2191-2-22**]  03:08 AM
                             [**2191-2-23**]  04:27 AM
                             [**2191-2-24**]  04:17 AM
   WBC
   9.8
   9.6
   10.0
   Hct
   30.2
   31.9
   31.4
   Plt
   550
   577
   624
   Cr
   1.6
   1.8
   2.0
   TCO2
   29
   Glucose
   65
   157
   138
   Other labs: PT / PTT / INR:23.1/30.8/2.2, Lactic Acid:0.7 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: Echo- EF 35-40%, inferolat AK
   CXR- unchanged, R-sided disease
   Assessment and Plan
   HYPOXEMIC RESPIRATORY DISTRESS- DDx includes post-pneumonic lung
   necrosis +/- pulm edema; repeat chest CT w/ dense multifocal
   consolidation --> likely resolving post-pneumonic change/scar
   -right now no clinical evidence of active infxn (no leukocytosis, no
   fever, no sputum production)
   -low threshold to start broad coverage if any change in clinical status
   -has achieved excellent response to diuresis; would back off given sig
   rise in creat
   -need to clarify code status with patient and pt's son
   CAD/ ICM- stable, poss component of fluid overload as above
   -diuresis dialing back today as above.
   AFIB- rate-controlled; INR therapeutic
   CHRONIC KIDNEY DISEASE- at baseline
   DM- controlled
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   22 Gauge - [**2191-2-22**] 11:34 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2191-02-25 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - was called out, but desated to 80's when working with PT (getting
   into chair), briefly on NRB, but quickly weaned back to 2L nc with rest
   - had low UOP (15cc in 3 hours) - foley was flushed and began to bleed
   around site
   - removed foley and it had a clot on the end.
   - three way foley placed and 80cc urine drained from it.  Again, had
   low UOP (5cc/hr) and patient in too much pain to flush.  Curbsided
   urology who recommened flushing with a total of 1L NS to remove any
   clots.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Avandia (Oral) (Rosiglitazone Maleate)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   Unknown;
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2191-2-24**] 11:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-2-25**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 58 (56 - 80) bpm
   BP: 91/34(48) {91/34(48) - 125/67(109)} mmHg
   RR: 22 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,420 mL
                  PO:
                                                                  1,080 mL
                  TF:
   IVF:
                                                                    340 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    135 mL
   Urine:
                                                                  1,050 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    370 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: irregularly irregular, unable to asses JVP 2/2 body
   habitus
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: crackles at right base-mid lung fields, scattered
   wheeze
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: trace [**Location (un) **]
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   self, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   612 K/uL
   10.3 g/dL
   119 mg/dL
   2.3 mg/dL
   30 mEq/L
   4.2 mEq/L
   36 mg/dL
   101 mEq/L
   137 mEq/L
   31.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2191-2-22**]  03:01 AM
                             [**2191-2-22**]  03:08 AM
                             [**2191-2-23**]  04:27 AM
                             [**2191-2-24**]  04:17 AM
                             [**2191-2-25**]  05:25 AM
   WBC
   9.8
   9.6
   10.0
   9.3
   Hct
   30.2
   31.9
   31.4
   31.8
   Plt
   550
   577
   624
   612
   Cr
   1.6
   1.8
   2.0
   2.3
   TCO2
   29
   Glucose
   65
   157
   138
   119
   Other labs: PT / PTT / INR:23.1/30.8/2.2, Lactic Acid:0.7 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 AIRWAY CLEARANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 DIABETES MELLITUS (DM), TYPE II
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   83 year-old male with MMP including afib on coumadin, CAD,
   cardiomyopathy s/p ICD/pacer, T2DM, HTN, hyperlipidemia, and CKD who
   presents to the ED from rehab with weakness and hypoxia.
   # CHF Exacerbation:   Improving, now on 2L nc.  Had hypoxic yesterday,
   had increasing O2 requirement and was increased to  60% FiO2, desated
   to 80%.  Felt to be fulid overloaded and put out well to iv lasix
   though overall only negative 600cc in 24 hours.  Did not appear gorssly
   fluid overloaded and suspect that hypoxia is primarily due to
   destruction of lung parenchyma [**3-14**] his significant pneumonia.  However,
   BNP of 4700 and likely has  of heart failure
 has depressed EF of ~40%
   per TTE. Received a total of 200ic lasix yesterday and was -1.2L over
   24 hours.
   - no further diuresis as has decreased O2 requirement and Cr bumped to
   2.0
 diurese as needed
   # Multifocal PNA:  CT scan showed worsening of lung process compared to
   the one 2 weeks ago.  Unclear if patient has truly failed PNA treatment
   or if there is another process occurring
 possiblye lung parenchyema
   destruction as a sequalae of his pneumonia.  No culture data available
   .  WBC has normalized at 9.8 today. Other etiologies include BOOP or
   other post-infectious inflammatory process - has peripheral
   eosinophila.  Has hilar nodules on CXR which are likely reactive.
   - no abx for now (got vanc, CTZ, and levo in ED, s/p 10 day course of
   vanc and zosyn,  if spikes or becomes hypotensive, cover broadly with
   vanc and cefipime)
   - f/u cx, blood cx NGTD, urine cx negative, c. diff negative x2
   - continue respiratory support
   # Weakness/Lethargy:   Unclear [**Name2 (NI) 1925**], likley  related to recent
   infectious process, nothing focal on exam
   - work up as above
   # Hypoglycemia:  Resovled. Had low fs at 44 in ED here, got 1 amp D50.
   Likely [**3-14**] to poor po intake and continued home insulin dosing
   - follow fingersticks
   - continue home insulin, ensure good po intake
   - SSI
   # Afib on coumadin: rate controlled currently, INR therapeutic 2.2
   - continue coumadin
   # CAD/cardiomyopathy:  Continue home regimen
   # T2DM:  Insulin as above
   # CKD, Stage III: Cr 2.0 this morning, likely [**3-14**] lasix, baseline is
   1.9
   - trend
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2191-2-22**] 11:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL for now, will discuss further with family/patient
   Disposition:

2191-02-26 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - FEN calculated 5%
   - low uriune output and periods of desaturation on activity and
   sleeping prevented call out.  Last desat occurred last night, however
   since then has been stable on 3 L NC.
   This am the patient denies SOB, chest pain, or other complaints.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Avandia (Oral) (Rosiglitazone Maleate)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   Unknown;
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-2-26**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 79 (61 - 81) bpm
   BP: 105/54(66) {85/29(44) - 126/75(79)} mmHg
   RR: 27 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    600 mL
                                                                     60 mL
   PO:
                                                                    600 mL
                                                                     60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    423 mL
                                                                    245 mL
   Urine:
                                                                    423 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    177 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98% on 3 L
   ABG: ///31/
   Physical Examination
   General Appearance: Elderly male lying in bed in NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: Patient is breathing comfortably.  Faint crackles
   and decreased breath sounds anteriorly.
   Abdominal: + BS, soft NTND
   Extremities: trace [**Location (un) **]
   Skin:  Warm
   Neurologic: Alert and appropriate
   Labs / Radiology
   614 K/uL
   10.7 g/dL
   61 mg/dL
   2.3 mg/dL
   31 mEq/L
   4.0 mEq/L
   40 mg/dL
   100 mEq/L
   138 mEq/L
   32.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2191-2-22**]  03:01 AM
                             [**2191-2-22**]  03:08 AM
                             [**2191-2-23**]  04:27 AM
                             [**2191-2-24**]  04:17 AM
                             [**2191-2-25**]  05:25 AM
                             [**2191-2-25**]  05:31 PM
                             [**2191-2-26**]  04:05 AM
   WBC
   9.8
   9.6
   10.0
   9.3
   9.5
   Hct
   30.2
   31.9
   31.4
   31.8
   32.3
   Plt
   550
   577
   624
   612
   614
   Cr
   1.6
   1.8
   2.0
   2.3
   2.3
   2.3
   TCO2
   29
   Glucose
   65
   157
   138
   119
   107
   61
   Other labs: PT / PTT / INR:55.5/37.9/6.4, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, Ca++:8.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   [1][**2191-2-25**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [2][**2191-2-24**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [3][**2191-2-23**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [4][**2191-2-22**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [5][**2191-2-22**]
   Influenza A/B by DFA
   DIRECT INFLUENZA A ANTIGEN TEST-FINAL; DIRECT INFLUENZA B ANTIGEN
   TEST-FINAL
   INPATIENT
   [6][**2191-2-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [7][**2191-2-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   83 year-old male with MMP including afib on coumadin, CAD,
   cardiomyopathy s/p ICD/pacer, T2DM, HTN, hyperlipidemia, and CKD who
   presents to the ED from rehab with weakness and hypoxia.
   # Multifocal PNA:  CT scan showed worsening of lung process compared to
   the one 2 weeks ago.  Unclear if patient has truly failed PNA treatment
   or if there is another process occurring
 possiblye lung parenchyema
   destruction as a sequalae of his pneumonia.  No culture data
   available.  WBC has normalized at 9.8 today. Other etiologies include
   BOOP or other post-infectious inflammatory process - has peripheral
   eosinophila.  Has hilar nodules on CXR which are likely reactive.
   - no abx for now (got vanc, CTZ, and levo in ED, s/p 10 day course of
   vanc and zosyn),  if spikes or becomes hypotensive, cover broadly with
   vanc and cefipime
   - f/u cx, blood cx NGTD, urine cx negative, c. diff negative x2
   - continue supplementary O2 as needed
   - Will send a sputum cx
   - Guafenesin, incentive spirometry.
   - Standing atrovent nebs, albuterol prn
   - Speech and swallow consult to ruleout aspiration as contributor to
   his lung issues.
   # CHF Exacerbation:   Pt currently on 4L nc follow additional epsiode
   of intermittent hypoxia to the mid 80s with movement. TTE showed an EF
   of 35-40%.  Pt was given a regimen of Lasix several days ago as he was
   suspected of being fluid overloaded, however his Cr increased with
   diuresis.  Was even yesterday and for LOS is negative 1.5 L.
   - As the patient
s Cr remains elevated at 2.3 (above his baseline of
   1.9), will not further diuresis today.
   - Will aim for even I/O
   # DM: As patient
s sugars are running on the low side, will given half
   his home NPH dose.
   - follow fingersticks
   - continue half of home insulin, ensure good po intake
   - SSI
   # Afib on coumadin: rate controlled currently, INR was supratherapeutic
   today at 6.4
   - Hold coumadin and check daily coags, goal INR of [**3-15**].
   - Continue amiodarone and metoprolol.
   # CKD, Stage III with superimposed ARF: Cr 2.3 this morning, likely [**3-14**]
   lasix diuresis, baseline is 1.9
   - trend
   - renally dose medications
   # CAD/cardiomyopathy:  Continue home regimen of metoprolol, ASA,
   plavix, losartan, and isorsorbide mononitrate.
   ICU Care
   Nutrition: Diabetic, cardiac diet.
   Glycemic Control:  as above
   Lines:
   22 Gauge - [**2191-2-22**] 11:34 AM
   Prophylaxis:
   DVT: supratherapeutic INR
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to the floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Episodic hypoxemia overnight that has responded to secretion clearance
   and increase in O2 to 3 lpm. He denies chest pain or dyspnea at rest.
   Fluid balance is net negative with the aid of diuretics. He has been
   off IV antibiotics for a few days and diarrhea also has improved with
   stool C.Difficile toxin returning negative.
   Exam notable for Tm of 98.6 BP of 105/54 HR of 79 RR of 16 with sat of
   95%  on 3 lpm O2 . his mucous membranes are dry and he does have
   inspiratory rales in right lung field and at left base. There is a
   paucity of wheeze and peripheral edema. He is oriented to name and
   person but not place.
   Labs notable for WBC of 9.5 K, HCT of 32.2 , K+ of 4.0 , Cr of 2.3 .CXR
   with diffuse right lung ASD and Chest CT also shows left basilar ASD.
   Agree with plan to hold antibiotics given treatment for full course of
   CAP. He has a multifocal process  ( infectious  PNA vs post infectious
   BOOP vs ? BALC) and appears well compensated at rest. We will recheck
   sputum GS, C&S and start him standing atrovent nebs with PO mucinex and
   incentive spirometry to help secretion clearance. He will need formal
   evaluation of his speech and swallow early next week but will need
   strict aspiration precautions nontheless. Daily diuretic need will be
   assessed  to prevent component of HCF from adding to current O2 needs.
   He will transition to regular telemetered bed today if no setbacks when
   he moves from bed to chair.
   Remainder of plan as outlined above.
   Patient is ill but has improved with supportive therapy
   Total time: 25min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2191-2-26**] 02:20 PM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);